US09399635B2
(1) Synthesis of 2-methoxy-4-(2-tetrahydrofuranylmethoxy)benzaldehyde
In 160 mL of N-methylpyrrolidone was dissolved 24.5 g (161 mmol) of 4-hydroxy-2-methoxybenzaldehyde. To this solution were added 63 g (0.19 mol) of cesium carbonate and 40 g (0.24 mol) of tetrahydrofurfuryl bromide at room temperature and the mixture was stirred at 80° C. for 22 hours. Water (800 mL) was added to the resulting reaction mixture under ice-cooling, and extraction with diethyl ether (500 mL×3 times) was performed. The combined organic layer was washed with water and then with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. The resulting crude product was purified on basic alumina (hexane/ethyl acetate=50/50 to 0/100) to give 23.7 g (62% yield) of the title compound as a light yellow powder with the following properties.

reactant | 4-hydroxy-2-methoxybenzaldehyde | 161 mmol, 24.5 g | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | cesium carbonate | 0.19 mol, 63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrahydrofurfuryl bromide | 0.24 mol, 40 g | C(C1CCCO1)Br | C5H9BrO
reactant | Water | 800 mL | O | H2O
solvent | N-methylpyrrolidone | 160 mL | CN1C(CCC1)=O | C5H9NO
product | 2-methoxy-4-(2-tetrahydrofuranylmethoxy)benzaldehyde | 23.7 g, 62% yield | COC1=C(C=O)C=CC(=C1)OCC1OCCC1 | C13H16O4
